US09334292B2
Preparation of 5-iodo-2,4,6-trichloropyrimidine
A dry, argon-filled Schlenk tube with a magnetic stirrer bar and septum is initially charged with 2,4,6-trichloropyrimidine (184 mg, 1 mmol) in anhydrous THF (1 ml). After adding (TMP)2Zn.MgCl2 (3.16 ml, 1.2 mmol) at 25° C., the mixture is stirred for 1 h. Then a solution of iodine (355 mg, 1.4 mmol), dissolved in anhydrous THF (2 ml), is added dropwise and the reaction mixture is stirred at 25° C. for 1 h. After dilution with aqueous sat. NH4Cl solution (30 ml) and extraction with ethyl acetate (3×30 ml), the combined organic phases are dried over Na2SO4, and distillative removal of the solvent and purification by column chromatography on silica gel (heptane:ethyl acetate) afforded the desired compound (240 mg, 78% of theory) as a colourless crystalline product.

reactant | 2,4,6-trichloropyrimidine | 1 mmol, 184 mg | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | MgCl2 | 1.2 mmol, 3.16 ml | [Mg+2].[Cl-].[Cl-]
reactant | iodine | 1.4 mmol, 355 mg | II | I2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 5-iodo-2,4,6-trichloropyrimidine | 240 mg, 78% | IC=1C(=NC(=NC1Cl)Cl)Cl | C4Cl3IN2
